US04970213
55.6 cm3 of phosphoryl chloride are added in the course of 30 minutes, with stirring, at between 10 and 15° C., to a mixture of 250 cm3 of trichloromethane and 54 cm3 of dimethylformamide and the mixture is stirred for 1 hour at a temperature close to 20° C. 52 g of 7-chloro-6-fluoro-3,4-dihydrocarbostyril are added progressively, with vigorous stirring, in the course of 10 minutes, at about 20° C. to the solution obtained. The suspension obtained is heated to a temperature close to 60° C. and is kept at this temperature for a further 2 hours, with stirring. The reaction mixture is concentrated under reduced pressure (20 kPa) at 50° C. until a pasty mixture is obtained. A mixture of 250 cm3 of water and 250 g of crushed ice is added, with vigorous stirring. The solid obtained is drained at about 5° C. and washed with 4 times 125 cm3 of water at 5° C. The moist product obtained and 58 g of sodium acetate are added simultaneously , in the course of 1 hour, to 500 cm3 of water at 90° C. in such a way as to maintain the pH at about 6. The mixture is stirred for a further 15 minutes at 90° C., the temperature is allowed to fall to about 50° C. and the product is drained at this temperature and washed with 3 times 250 cm3 of water at about 20° C. 54.3 g of 2,7-dichloro-6-fluoro-3-formyl-1,4-dihydro quinoline are obtained in the form of a yellow solid melting at 260° C. which is used in this form for the subsequent steps.

reactant | phosphoryl chloride | 55.6 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trichloromethane | 250 cm3 | ClC(Cl)Cl | CHCl3
reactant | 7-chloro-6-fluoro-3,4-dihydrocarbostyril | 52 g | ClC1=C(C=C2CCC(NC2=C1)=O)F | C9H7ClFNO
reactant | sodium acetate | 58 g | C(C)(=O)[O-].[Na+]
solvent | water | 500 cm3 | O | H2O
solvent | water | 250 cm3 | O | H2O
solvent | dimethylformamide | 54 cm3 | CN(C=O)C | C3H7NO
product | 2,7-dichloro-6-fluoro-3-formyl-1,4-dihydro quinoline | 54.3 g | ClC=1NC2=CC(=C(C=C2CC1C=O)F)Cl | C10H6Cl2FNO
